US04797129
Preparation of 2-(β-diethylaminoethyl)amino-6-(β-diethylaminoethyl)aminonitrobenzene dihydrochloride
300 mg of palladium at a concentration of 10% on calcium carbonate are added to 0.015 mole (5.8 g) of 4-chloro-2-(β-diethylaminoethyl)amino-6-(β-diethylaminoethyl)aminonitrobenzene in 11.1 ml of triethylamine, after which 2.86 ml of acetic acid and 2.1 ml of formic acid are added dropwise. After the end of the additions, the materials are heated under reflux for 3 hours 30 minutes. The reaction mixture is diluted with 10 ml of water. The catalyst is removed by hot filtration. The filtrate is evaporated to dryness under vacuum. The inorganic salts are precipitated by adding acetone and are removed by filtration. After evaporation of the acetone, an oil is obtained and this, after treatment with a solution of hydrochloric acid in absolute ethanol, leads to the expected product which is isolated by evaporating off the alcohol and precipitating with ethyl ether.

reactant | 4-chloro-2-(β-diethylaminoethyl)amino-6-(β-diethylaminoethyl)aminonitrobenzene | 0.015 mole, 5.8 g | ClC1=CC(=C(C(=C1)NCCN(CC)CC)[N+](=O)[O-])NCCN(CC)CC | C18H32ClN5O2
reactant | acetic acid | 2.86 ml | C(C)(=O)O | C2H4O2
reactant | formic acid | 2.1 ml | C(=O)O | CH2O2
reactant | hydrochloric acid | Cl | ClH
solvent | triethylamine | 11.1 ml | C(C)N(CC)CC | C6H15N
solvent | water | 10 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium | 300 mg | [Pd] | Pd
product | 2-(β-diethylaminoethyl)amino-6-(β-diethylaminoethyl)aminonitrobenzene dihydrochloride | Cl.Cl.C(C)N(CCNC1=C(C(=CC=C1)NCCN(CC)CC)[N+](=O)[O-])CC | InChI=1S/C18H33N5O2.2ClH/c1-5-21(6-2)14-12-19-16-10-9-11-17(18(16)23(24)25)20-13-15-22(7-3)8-4;;/h9-11,19-20H,5-8,12-15H2,1-4H3;2*1H
